US05710130
A) Preparation of Boc-D-Phe-Pro-OBn
To a solution of Boc-D-Phe-OH (89.1 g, 336 mmol), Pro-OBn hydrochloride (81.2 g, 336 mmol), HOBT (50 g, 370 mmol) and N,N-diisopropylethylamine (176 mL, 1,008 mmol) at 0° C. in dichloromethane (600 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (71 g, 370 mmol). After stirring for 18 hours, the mixture was diluted with diethyl ether (1 L) and washed sequentially three times with 1N citric acid (250 mL), once with water (250 mL), three times with saturated aqueous sodium bicarbonate (250 mL) and once with saturated aqueous sodium chloride (250 mL). The organic phase was dried (Na2SO4), filtered, and concentrated in vacuo to yield 140 g (92.5%) of a pale yellow foam.

reactant | Boc-D-Phe-OH | 336 mmol, 89.1 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | Pro-OBn hydrochloride | 336 mmol, 81.2 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | HOBT | 370 mmol, 50 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1,008 mmol, 176 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 370 mmol, 71 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
product | Boc-D-Phe-Pro-OBn | 140 g, 92.5% | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
